US08729105B2
Preparation of 5-(4-chlorophenyl)-6-cyclobutoxy-N-(pyridin-2-ylmethyl)nicotinamide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-cyclobutoxy-nicotinic acid (example CA) and 2-pyridinemethanamine (CAN 3731-51-9) as starting materials; LC-MS (UV peak area/ESI) 99.0%, 394.1 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-cyclobutoxy-nicotinic acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OC1CCC1 | C16H14ClNO3
reactant | 2-pyridinemethanamine | N1=C(C=CC=C1)CN | C6H8N2
product | 5-(4-chlorophenyl)-6-cyclobutoxy-N-(pyridin-2-ylmethyl)nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)NCC2=NC=CC=C2)C1)OC1CCC1 | C22H20ClN3O2
